US05278157
a) Cephradine Dimethylformamide Solvate
To an aqueous solution of about 270 ml, containing approximately 49 g of cephradine in the form of its hydrochloride, (and obtained, after extraction from any suitable reaction mixture of cephradine) 340 ml of dimethylformamide were added, the temperature being maintained at below 35°. The pH was adjusted to 4.3 by addition of ammonia at 30°-35° C. and the mixture was stirred for several minutes as precipitation commenced. The pH was further adjusted to 6.6 with ammonia at 30° to 35° and the slurry was then cooled to 20° to 25° and filtered. The cake was washed with 160 ml of DMF and 130 ml of acetone to obtain the heading compound.

reactant | cephradine | approximately 49 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CCC=CC3)N)SC1)C(=O)O | C16H19N3O4S
reactant | hydrochloride | Cl | ClH
product | Cephradine Dimethylformamide | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CCC=CC3)N)SC1)C(=O)O.CN(C=O)C | InChI=1S/C16H19N3O4S.C3H7NO/c1-8-7-24-15-11(14(21)19(15)12(8)16(22)23)18-13(20)10(17)9-5-3-2-4-6-9;1-4(2)3-5/h2-3,6,10-11,15H,4-5,7,17H2,1H3,(H,18,20)(H,22,23);3H,1-2H3/t10-,11-,15-;/m1./s1
